US04014915
2-tert-Butoxycarbonyloxyimino-2-phenylacetonitrile (1.25 g.) was added to a solution of L-proline (575 mg.) and triethylamine (0.7 ml.) in a mixture of methanol (7.5 ml.), dioxane (2.5 ml.) and water (5.0 ml.) at room temperature. The reaction mixture was concentrated under reduced pressure and benzene and water were added to the residue. After shaking the resultant mixture, the aqueous layer was separated from the mixture, washed with benzene, acidified with hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated. A mixture of ether and n-hexane was added to the residue and the residue was added a mixture of ether and n-hexane and the precipitated crystals were collected by filtration and dried to give N-tert-butoxycarbonyl-L-proline (845 mg.), mp (845 mg.), mp 133° to 134° C.

reactant | 2-tert-Butoxycarbonyloxyimino-2-phenylacetonitrile | 1.25 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | L-proline | 575 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 7.5 ml | CO | CH4O
solvent | water | 5.0 ml | O | H2O
product | N-tert-butoxycarbonyl-L-proline | 845 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
